US08669234B2
4-Methylmorpholine (9.77 mL, 88.9 mmol) was added to a suspension of 2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester (6 g, 17.7 mmol), and HATU (8.11 g, 21.3 mmol) in dimethylformamide (20 mL). After 5 minutes N,O-dimethylhydroxylamine hydrochloride (2.60 g, 26.7 mmol), was added to the solution. After 1 hour the solvent was removed under reduced pressure. The residue was taken up in ethyl acetate (150 mL), and washed with water (100 mL), aqueous hydrogen chloride (0.5 N, 2×100 mL), saturated sodium bicarbonate (100 mL), and saturated sodium chloride (100 mL). The organic phase was dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The residue was subjected to flash chromatography with eluent of ethyl acetate and hexane. The product-containing fractions were combined and the solvent was removed under reduced pressure to yield 2-tert-butoxycarbonylamino-4-(methoxy-methyl-carbamoyl)-butyric acid benzyl ester (6.8 g, 17.8 mmol, 99%). C19H28N2O6 calculated 380.2 observed [M+1]+381.2; rt=2.48 min.

reactant | 4-Methylmorpholine | 88.9 mmol, 9.77 mL | CN1CCOCC1 | C5H11NO
reactant | 2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester | 17.7 mmol, 6 g | C(C1=CC=CC=C1)OC(C(CCC(=O)O)NC(=O)OC(C)(C)C)=O | C17H23NO6
reactant | HATU | 21.3 mmol, 8.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,O-dimethylhydroxylamine hydrochloride | 26.7 mmol, 2.60 g | Cl.CNOC
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-tert-butoxycarbonylamino-4-(methoxy-methyl-carbamoyl)-butyric acid benzyl ester | 17.8 mmol, 6.8 g, 99% | C(C1=CC=CC=C1)OC(C(CCC(N(C)OC)=O)NC(=O)OC(C)(C)C)=O | C19H28N2O6
